US07153878B2
2-[5-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propionic acid ethyl ester (1.05 g, 3.06 mmol) is dissolved into anhydrous tetrahydrofuran (THF) (10 mL) and then cooled to 0° C. with stirring. Lithium aluminum hydride (3.10 mL, 1M in THF, 3.10 mmol) is slowly added by syringe and the reaction is monitored by TLC. Upon complete conversion, the reaction is carefully quenched using water, base, and water. Celite is added to the reaction, followed by diethyl ether and the mixture is then filtered through a celite plug. The two phases are then separated and the organic layer is washed using water and brine. The organic layer is the dried over anhydrous sodium sulfate and concentrated. The pure 2-[5-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propan-1-ol (0.930 g, 2.95 mmol) is obtained in 95% yield after flash column chromatography.

reactant | 2-[5-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propionic acid ethyl ester | 3.06 mmol, 1.05 g | C(C)OC(C(C)C=1N=C(SC1CC)C1=CC=C(C=C1)C(F)(F)F)=O | C17H18F3NO2S
reactant | Lithium aluminum hydride | 3.10 mmol, 1M, 3.10 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-[5-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propan-1-ol | 2.95 mmol, 0.930 g, 95% yield | C(C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C(CO)C | C15H16F3NOS
